US07521446B2
3. cis-(tert-Butoxy)-N-{4-[(1,3-dioxobenzo[c]azolidin-2-yl)methyl]cyclohexyl}carboxamide
cis-(tert-Butoxy)-N-[4-(hydroxymethyl)cyclohexyl]carboxamide (0.5 g, 2.18 mmol) and resin-bound triphenyl phosphine (1.453 g, 4.36 mmol, 3 mmol/g resin) were suspended in 15 mL of dry THF. Phthalimide was added in 5 mL of THF followed by diisopropyl azodicarboxylate (DIAD) (0.858 mL, 4.36 mmol). The reaction was stirred at room temperature and monitored by LC-MS. After overnight stirring at room temperature, the resin was removed by filtration and washed multiple times with 5 mL portions of THF. The filtrate combined with washings was concentrated under reduced pressure. The product was purified using column chromatography on silica gel using 10% ethyl acetate in hexanes as eluent. The product was isolated as a white solid (0.486 g, 1.35 mmol, 62% yield) ES-MS (m/z) 359.

reactant | cis-(tert-Butoxy)-N-[4-(hydroxymethyl)cyclohexyl]carboxamide | 2.18 mmol, 0.5 g | C(C)(C)(C)OC(=O)N[C@@H]1CC[C@@H](CC1)CO | C12H23NO3
reactant | triphenyl phosphine | 4.36 mmol, 1.453 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Phthalimide | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | diisopropyl azodicarboxylate | 4.36 mmol, 0.858 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | cis-(tert-Butoxy)-N-{4-[(1,3-dioxobenzo[c]azolidin-2-yl)methyl]cyclohexyl}carboxamide | 1.35 mmol, 0.486 g, 62% yield | C(C)(C)(C)OC(=O)N[C@@H]1CC[C@@H](CC1)CN1C(C2=C(C1=O)C=CC=C2)=O | C20H26N2O4
